US05233010
A solution of tetramethylammonium hydroxide dihydrate (TMA(H)·2H2O) (1.8 g, 14.0 mmole), benzamide (1.2 g., 9.9 mmole) and 10 ml of xylene was stirred under nitrogen at 70° C. The water and xylene was removed by vacuum distillation at 740 mmHg/70° C. Nitrobenzene (1.2 g., 9.7 mmole) was added dropwise and the solution was stirred for 4 hours under nitrogen after which time an aliquot was removed for HPLC analysis. 4'-Nitrobenzanilide was produced in 25% yield based on benzamide. Azoxybenzene was generated in 8% yield in this reaction.

reactant | tetramethylammonium hydroxide dihydrate | 14.0 mmole, 1.8 g | O.O.[OH-].C[N+](C)(C)C
reactant | benzamide | 9.9 mmole, 1.2 g | C(C1=CC=CC=C1)(=O)N | C7H7NO
reactant | Nitrobenzene | 9.7 mmole, 1.2 g | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
solvent | xylene | 10 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 4'-Nitrobenzanilide | 25% yield | [N+](=O)([O-])C1=CC=C(NC(C2=CC=CC=C2)=O)C=C1 | C13H10N2O3
